US08293909B2
Step 5: Preparation of the title compound, 2-(4-fluorophenyl)-N-methyl-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)furo[2,3-b]pyridine-3-carboxamide.
Methanamine (253 μL, 0.506 mmol, 2M in THF) was added to a stirring solution of 2-(4-fluorophenyl)-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)furo[2,3-b]pyridine-3-carboxylic acid (50 mg, 0.10 mmol), DIEA (53 μL, 0.30 mmol), DMAP (1.2 mg, 10 μmol), HATU (58 mg, 0.15 mmol) in DMF (1 mL) at room temperature. It was allowed to stir for 1 hour and then was purified by preparative reverse phase HPLC on a C18 column using a suitably buffered H2O/CH3CN gradient, and concentrated to give the expected product 2-(4-fluorophenyl)-N-methyl-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)furo[2,3-b]pyridine-3-carboxamide (7 mg, 0.013 mmol, 13% yield) consistent by LCMS and NMR. 1H NMR (500 MHz, MeOD) δ ppm 8.65 (1H, d, J=2.14 Hz), 8.41 (1H, d, J=2.14 Hz), 8.12-8.17 (1H, m), 8.00-8.06 (2H, m), 7.84-7.92 (2H, m), 7.62 (1H, t, J=7.63 Hz), 7.43-7.50 (2H, m), 7.26-7.35 (4H, m), 7.19 (1H, t, J=7.32 Hz), 2.98 (3H, s), 1.78 (6H, s). LC-MS retention time: 1.77 min; m/z (MH+): 508. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna 10 u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data was determined using a Micromass Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 mm, Rt=12.82 min, purity=95%; Column: Waters Xbridge Phenyl column 4.6×150 mm, 3.5 mm, Rt=11.20 min, purity=94%. Additional HPLC method: Solvent A=5% MeOH/95% H2O/10 mM ammonium bicarbonate, Solvent B=95% MeOH/5% H2O/10 mM ammonium bicarbonate, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Phenomenex Gemini C1 C-18, 4.6×150 mm, 3 mm, Rt=14.10 min, purity=95%; Column: Waters Xbridge Phenyl column 4.6×150 mm, 3.5 mm, Rt=13.85 min, purity=95%.

reactant | Methanamine | 0.506 mmol, 2M, 253 μL | CN | CH5N
reactant | 2-(4-fluorophenyl)-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)furo[2,3-b]pyridine-3-carboxylic acid | 0.10 mmol, 50 mg | FC1=CC=C(C=C1)C1=C(C=2C(=NC=C(C2)C2=CC(=CC=C2)C(NC(C)(C)C2=CC=CC=C2)=O)O1)C(=O)O | C30H23FN2O4
reactant | DIEA | 0.30 mmol, 53 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.15 mmol, 58 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
catalyst | DMAP | 10 μmol, 1.2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-(4-fluorophenyl)-N-methyl-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)furo[2,3-b]pyridine-3-carboxamide | 0.013 mmol, 7 mg, 13% yield | FC1=CC=C(C=C1)C1=C(C=2C(=NC=C(C2)C2=CC(=CC=C2)C(NC(C)(C)C2=CC=CC=C2)=O)O1)C(=O)NC | C31H26FN3O3
